US07067540B2
To an ice-cold solution of (3-hydroxymethylphenyl)acetonitrile (0.97 g, 7.3 mmol) in THF (35 mL) was added CBr4 (2.5 g, 7.7 mmol) and Ph3P (2.0 g, 7.7 mmol), and the reaction mixture was stirred for 3 h. The reaction mixture was filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, eluent 1:9 to 1:4 EtOAc/hexanes) provided (3-bromomethylphenyl)acetonitrile as a clear oil (0.89 g, 58%): 1H NMR (300 MHz, MeOD) δ 7.47-7.29 (m, 1H), 7.27 (s, 1H), 6.97-6.82 (m, 1H), 4.87 (s, 2H), 3.91 (s, 2H).

reactant | (3-hydroxymethylphenyl)acetonitrile | 7.3 mmol, 0.97 g | OCC=1C=C(C=CC1)CC#N | C9H9NO
reactant | CBr4 | 7.7 mmol, 2.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | Ph3P | 7.7 mmol, 2.0 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (3-bromomethylphenyl)acetonitrile | 0.89 g, 58% | BrCC=1C=C(C=CC1)CC#N | C9H8BrN
